US04414226
8-Hydroxy-1-methoxy-3-methyl-7,12-dihydro-5H-benzo[d]naphtho[2,3-b]pyran-5,7,12-trione (400 mg) as prepared in Example 1 was dissolved in a 20:100:1 mixture (20 ml) of acetic acid, methylene chloride and methanol, followed by addition of sulfuryl chloride (2 ml). The mixture was refluxed for 5 hours. The solvent was distilled off under reduced pressure and the residue was subjected to silica gel column chromatography to give methyl 2-(3,5-dihydroxy-1,4-naphthoquinon-2-yl)-3-methoxy-5-methyl-6-chlorobenzoate.

reactant | 8-Hydroxy-1-methoxy-3-methyl-7,12-dihydro-5H-benzo[d]naphtho[2,3-b]pyran-5,7,12-trione | 400 mg | OC1=CC=CC=2C(C3=C(OC(C4=C3C(=CC(=C4)C)OC)=O)C(C12)=O)=O | C19H12O6
reactant | sulfuryl chloride | 2 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | methanol | CO | CH4O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methyl 2-(3,5-dihydroxy-1,4-naphthoquinon-2-yl)-3-methoxy-5-methyl-6-chlorobenzoate | OC1=C(C(C2=CC=CC(=C2C1=O)O)=O)C1=C(C(=O)OC)C(=C(C=C1OC)C)Cl | C20H15ClO7
